US06242601B1
To 0.586 g of 4-[4-(5-isopropyl-pyridine-2-sulfonylamino)-6-methoxy-5-(2-methoxy-phenoxy)-pyrimidin-2-yl]-pyridine-2-carboximidic acid methyl ester sodium salt, product of example 41 c), in methanol (10 ml) were added 6 N HCl (3 ml) and the mixture was refluxed for 1 h until the reaction was complete according to TLC analysis (eluent: CH2CL2/EtOAc: 4/1). The mixture was poured into water and the product extracted into EtOAc. The organic layer was washed with water, dried over Na2SO4 and the solvent removed in vacuo. The residue was purified on a silica gel chromatography column (eluted with Me2Cl2/EtOAc: 4/1). Combination of the purified fractions and evacuation in vacuo afforded 4-[4-(5-isopropyl-pyridine-2-sulfonylamino)-6-methoxy-5-(2-methoxy-phenoxy)-pyrimidin-2-yl]-pyridine-2-carboxylic acid methyl ester as an off-white solid. ISN mass spectrum, m/e 564.2 (M−1 calculated for C27H27N5O7S: 564).

reactant | 4-[4-(5-isopropyl-pyridine-2-sulfonylamino)-6-methoxy-5-(2-methoxy-phenoxy)-pyrimidin-2-yl]-pyridine-2-carboximidic acid methyl ester sodium salt | 0.586 g | [Na].COC(=N)C1=NC=CC(=C1)C1=NC(=C(C(=N1)NS(=O)(=O)C1=NC=C(C=C1)C(C)C)OC1=C(C=CC=C1)OC)OC
reactant | HCl | 6 N, 3 ml | Cl | ClH
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | water | O | H2O
solvent | methanol | 10 ml | CO | CH4O
product | 4-[4-(5-isopropyl-pyridine-2-sulfonylamino)-6-methoxy-5-(2-methoxy-phenoxy)-pyrimidin-2-yl]-pyridine-2-carboxylic acid methyl ester | COC(=O)C1=NC=CC(=C1)C1=NC(=C(C(=N1)NS(=O)(=O)C1=NC=C(C=C1)C(C)C)OC1=C(C=CC=C1)OC)OC | C27H27N5O7S
